US04585777
(-)-cis-4-(4-fluorophenyl)-3-hydroxymethyl-1-methylpiperidine hydrochloride
Thirty-five (35) g of (+)-4-(4-fluorophenyl)-3-hydroxymethyl-1-methyl-1,2,3,6-tetrahydropyridine hydrochoride and 5.5 g of Pd-catalyst (5% Pd on charcoal) are mixed in 2900 ml of 99% ethanol. The mixture is reduced at room temperature under one atmosphere of hydrogen pressure over a period of six hours, taking up 3250 ml of hydrogen. The reaction mixture is filtered and the filtrate is evaporated. The residue is washed with ether to give 33.5 g of the title compound. M.p. 158°-159° C.

reactant | (+)-4-(4-fluorophenyl)-3-hydroxymethyl-1-methyl-1,2,3,6-tetrahydropyridine hydrochoride | Cl.FC1=CC=C(C=C1)C=1C(CN(CC1)C)CO
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 3250 ml | [H][H] | H2
solvent | ethanol | 2900 ml | C(C)O | C2H6O
catalyst | Pd | 5.5 g | [Pd] | Pd
product | (-)-cis-4-(4-fluorophenyl)-3-hydroxymethyl-1-methylpiperidine hydrochloride | 33.5 g | Cl.FC1=CC=C(C=C1)[C@@H]1[C@@H](CN(CC1)C)CO | InChI=1S/C13H18FNO.ClH/c1-15-7-6-13(11(8-15)9-16)10-2-4-12(14)5-3-10;/h2-5,11,13,16H,6-9H2,1H3;1H/t11-,13+;/m0./s1
